US03951976
Preparation of Tetrahydro-1-(5-methylthio-1,3,4-thiadiazol-2-yl)-3-propyl-6-(N-cyclohexylcarbamoyloxy)-2(1H)-pyrimidinone
Tetrahydro-1-(5-methylthio-1,3,4-thiadiazol-2-yl)-3-propyl-6-hydroxy-2(1H)-pyrimidinone (0.05 mole) and cyclohexyl isocyanate (3.5 ml); 0.06 mole) are charged into a glass reaction vessel equipped with a mechanical stirrer. The mixture is stirred and triethylamine (1 drop) is added thereto. After the addition is completed the reaction mixture is allowed to stand for a period of about 1 hour. The mixture is then washed with hexane and is dried to yield the desired product tetrahydro-1-(5-methylthio-1,3,4-thiadiazol-2-yl)-3-propyl-6-(N-cyclohexylcarbamoyloxy)-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-methylthio-1,3,4-thiadiazol-2-yl)-3-propyl-6-hydroxy-2(1H)-pyrimidinone | 0.05 mole | CSC1=NN=C(S1)N1C(N(CCC1O)CCC)=O | C10H16N4O2S2
reactant | cyclohexyl isocyanate | 3.5 ml | C1(CCCCC1)N=C=O | C7H11NO
catalyst | triethylamine | 1 drop | C(C)N(CC)CC | C6H15N
product | tetrahydro-1-(5-methylthio-1,3,4-thiadiazol-2-yl)-3-propyl-6-(N-cyclohexylcarbamoyloxy)-2(1H)-pyrimidinone | CSC1=NN=C(S1)N1C(N(CCC1OC(NC1CCCCC1)=O)CCC)=O | C17H27N5O3S2
